US05968967
b) Preparation of 4-{[4-(Carboxymethyloxy)-1-piperidinyl]carbonyl}-1-(4-cyanophenyl)-2-methyl-3-[4-(2-pyridyl)phenyl]-2H-pyrazol-5-one
A mixture of 1.62 g of 1-(4-cyanophenyl)-4-chlorocarbonyl-2-methyl-3-[4-(2-pyridyl)phenyl]-2H-pyrazol-5-one, 2.04 g of triethylamine, 20 ml of tetrahydrofuran and 1.35 g of ethyl 4-piperidinoxyacetate was stirred at room temperature for 16 hours. The reaction solution was evaporated under reduced pressure, and the resulting residue was extracted with chloroform. The organic layer was washed with saturated aqueous sodium chloride and dried over sodium sulfate. The insolubles were filtered off, and the solvent was removed by evaporation. The resulting residue was crystallized in chloroform-methanol-ethyl acetate to give 250 mg of the title compound as pale yellow crystals. The mother liquor was evaporated under reduced pressure, and the resulting residue was purified by silica gel chromatography (eluent;ethyl acetate:methanol 9:1). The resulting crude crystals were recrystallized in chloroform-methanol-ethyl acetate to give 601 mg of the title compound as pale pink crystals.

reactant | 1-(4-cyanophenyl)-4-chlorocarbonyl-2-methyl-3-[4-(2-pyridyl)phenyl]-2H-pyrazol-5-one | 1.62 g | C(#N)C1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)Cl)C1=CC=C(C=C1)C1=NC=CC=C1)C | C23H15ClN4O2
reactant | triethylamine | 2.04 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-piperidinoxyacetate | 1.35 g | N1CCC(CC1)OCC(=O)OCC | C9H17NO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-{[4-(Carboxymethyloxy)-1-piperidinyl]carbonyl}-1-(4-cyanophenyl)-2-methyl-3-[4-(2-pyridyl)phenyl]-2H-pyrazol-5-one | 250 mg | C(=O)(O)COC1CCN(CC1)C(=O)C1=C(N(N(C1=O)C1=CC=C(C=C1)C#N)C)C1=CC=C(C=C1)C1=NC=CC=C1 | C30H27N5O5
